US09126999B2
Preparation 3: 3-((1-methyl-2-(propan-2-ylidene)hydrazinyl)methylene)pentane-2,4-dione
3-(ethoxymethylene)pentane-2,4-dione (Preparation 2, 8.6 g) was dissolved in Ether (30 mL) and cooled to 0° C. The reaction solution was then slowly treated with 1-methyl-2-(propan-2-ylidene)hydrazine (Preparation 1, 4.8 g) dropwise over 5 minutes, and then warmed and stirred at room temperature overnight. The reaction solution was purified directly by flash column chromatography (Biotage Quad 25; Eluent: 20% EtOH in EtOAc) to afford the title compound as a light red solid. (9.1 g, 84.0%).

reactant | 3-(ethoxymethylene)pentane-2,4-dione | 8.6 g | C(C)OC=C(C(C)=O)C(C)=O | C8H12O3
reactant | 1-methyl-2-(propan-2-ylidene)hydrazine | 4.8 g | CNN=C(C)C | C4H10N2
solvent | Ether | 30 mL | CCOCC | C4H10O
product | 3-((1-methyl-2-(propan-2-ylidene)hydrazinyl)methylene)pentane-2,4-dione | CN(N=C(C)C)C=C(C(C)=O)C(C)=O | C10H16N2O2
